Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zosyn / Oxaliplatin
 
Attending: ___.
 
Chief Complaint:
guiaic positive stool
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ year old male c h/o metastatic colon cancer 
Stage III T3N1 met colon cancer,D1,8,15 irinotecan, weekly 
erbitux who reports that he's had dark bowel movements for the 
past 2 days without associated lightheadedness, dizziness, 
syncope, abdominal pain, EtOH use, NSAID use, recent travel.  He 
has been ahving some intermittent vauge lower abdominal pain 
___. His pain was able to partially resolve with tylenol. He 
has some diarrhea, has not noted any blood on wiping or 
streaking. Stool has been dark since starting iron. He also 
denies fevers, chills, weight loss, change in appetite, change 
in stool caliber.
.
Jaw tightness started a few weeks ago and has significantly 
worsened within the past week. He has had decreased PO intake 
because of this. He has not had any other neuro symptoms. No 
other tetnay symptoms and no perioral tingling. 
.
His last treatment of ___ was on ___.
 
Past Medical History:
POncH  
# Colon cancer (T3N1, stage IIIB, dx ___ c/b liver, 
pancreas, lung mets  
- s/p L colectomy  
- s/p adjuvant Folfox/bevacizumab x8 cycles  
- s/p segmental liver resection (___)  
- s/p pancreatic cyberknife tx (___)  
- chronic splenic vein occlusion  
- irinotecan  
- d/c chemotherapy ___ s/p oxaliplatin reaction  
- Current therapy: Irinotecan ___ - current) Q2WKS c/b 
diarrhea  
.  
PMH  
# Hypertension  
# Depression  
# pAfib (___) 

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals - 110/74, 65, 16, 98% RA  
GENERAL: NAD
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD
jaw- asymmetic tonic contraction worse on L, able to volunaraily 
relax
CARDIAC: RRR, S1/S2, no mrg
LUNG: CTAB
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
M/S: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities
PULSES: 2+ DP pulses bilaterally
NEURO: CN II-XII intact
 
Pertinent Results:
___ 11:00AM   WBC-4.4 RBC-3.51* HGB-11.4* HCT-34.5* MCV-98 
MCH-32.6* MCHC-33.1 RDW-16.9*
___ 12:00AM BLOOD Hct-32.0*

CT abdomen/pelvis:
1. Marked interval disease progression of hepatic metastasis. 
  
2. Relatively stable with mild size increase in the appearance 
of large mass 
in the pancreatic bed involving the stomach and small bowel. 
  
3. Stable left lower lobe pulmonary nodule. 

 
Brief Hospital Course:
# Guaiac positive stools: patient with dark guaiac positive 
stools, likely due to slow ongoing bleeding in background of 
progressive metstatic disease vs false positive in setting of 
iron usage.  Currently patient is hemodynamically stable and Hct 
is at baseline, 35. Hct stable throughout admission.
.
# Oromandibular dystonia  - Electrolytes normal, patient 
evaluted for this by Dr. ___ in the past, no hx of neuroleptic 
medications. Seen by neuro on this admission felt to be possibly 
psychogenic. This is the cause of decreased PO intake. Patient 
may benefit from botox injections vs speech therapy or movement 
disorder specialist. To be followed up as outpatient.
.
Metastatic Colon Cancer: likely culprit of intractible abdominal 
pain. Continue treatment as per inpatient Oncology team. Pain 
controlled with PO medication.
.
Afib: continue metoprolol
.
Psych: continue Clonazepam
.
CODE: presumed FULL

 
Medications on Admission:
AMYLASE-LIPASE-PROTEASE [CREON 20] - 497 mg (66,400 unit-20,000
unit-75,000 unit)  ___ Capsule(s)
by mouth with each meal
CLONAZEPAM - 1 mg Tablet - 1 Tablet(s) by mouth once a day
DIPHENOXYLATE-ATROPINE [LOMOTIL] - 2.5 mg-0.025 mg Tablet - ___
qid prn diarrhea
METOPROLOL TARTRATE - 25 mg Tablet qd
ONDANSETRON [ZOFRAN ODT] - 4 mg tid prn
OPIUM TINCTURE - 10 mg/mL Tincture - 0.6mL Tincture(s) qid prn
PANTOPRAZOLE [PROTONIX] - 40 mg qd
POTASSIUM CHLORIDE - 20 mEq Tab Sust.Rel. Particle/Crystal bid
LOPERAMIDE [IMODIUM A-D] -  (OTC) - 2 mg qid prn diarrhea
MULTIVITAMIN
 
Discharge Medications:
1. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
4. Amylase-Lipase-Protease 33,200-10,000- 37,500 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
8. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
9. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
10. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
11. Heparin Flush (10 units/ml) 5 mL IV PRN line flush 
Indwelling Port (e.g. Portacath), heparin dependent: Flush with 
10 mL Normal Saline followed by Heparin as above daily and PRN 
per lumen. 
12. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
Indwelling Port (e.g. Portacath), heparin dependent: When 
de-accessing port, instill Heparin as above per lumen. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
pain syndrome secondary to progressive metatstic colon cancer

 
Discharge Condition:
stable, Hct stable

 
Discharge Instructions:
You were admitted for guiaic positive stools and intractible 
abdominal pain. Pain was controlled with PO medication at the 
time of discharge. Hct was stable over the admission. Ct scan 
shows progression of disease.
.
You are being pain medication to take at home. Please take 
medications as prescribed. Please go to all previously scheduled 
follow up appointments.
. 
Please return to the ED if you have worsening abdominal pain or 
lightheadness when standing.
 
Followup Instructions:
___